US07417065B2
To a slurry of 6-methyl-benzo[b]thiophene-2-boronic acid (0.19 g, 0.001 mol) in 10 mL of benzene is added 4-bromo-2-trifluoromethyl-biphenyl ( 0.3g, 0.001 mol). The reaction flask is then covered with aluminum foil to keep out light. To this is added 58 mg of tetrakis(triphenylphosphine-palladium(0), followed by 1 mL of 2.0N sodium carbonate solution. The biphasic mixture is heated at 85° C. for 3 hours with vigorous stirring. The mixture is cooled to room temperature and 10 mL of brine solution is added. The organic layer is separated, dried and concentrated under vacuo to afford 0.2g of 6-methyl-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene.

reactant | 6-methyl-benzo[b]thiophene-2-boronic acid | 0.001 mol, 0.19 g | CC=1C=CC2=C(SC(=C2)B(O)O)C1 | C9H9BO2S
reactant | 4-bromo-2-trifluoromethyl-biphenyl | 0.001 mol, 0.3g | BrC1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F | C13H8BrF3
reactant | aluminum | [Al] | Al
reactant | sodium carbonate | 2.0N, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | brine | 10 mL | [Cl-].[Na+].O
catalyst | tetrakis | 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | triphenylphosphine palladium(0) | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 6-methyl-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene | 0.2g | CC=1C=CC2=C(SC(=C2)C2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C1 | C22H15F3S
